US06350771B1
Bromine (0.5 ml) was added over 10 minutes to a stirred solution of sodium thiocyanate (1.7 g) in anhydrous methanol at −65° C. A solution of 5-amino-1-(2-chloro-4-(trifluoromethyl)phenyl]-1-H-pyrazole-3-carbonitrile (1.5 g) in anhydrous methanol was added over 10-minutes and the stirred mixture allowed to warm to 20° C. over 16-hours. After pouring into water the precipitate was collected and dried to give 5-amino-1-[2-chloro-4-(trifluoromethyl)phenyl]-4-thiocyanato-1H-pyrazole-3-carbonitrile (1.64 g). HPLC (C-18 column, eluting with 3:1 CH3CN/H2O at 1.0 ml/min.) showed the compound as a peak of 86.6% area at 5.11 minutes.

reactant | Bromine | 0.5 ml | BrBr | Br2
reactant | sodium thiocyanate | 1.7 g | [S-]C#N.[Na+]
reactant | 5-amino-1-(2-chloro-4-(trifluoromethyl)phenyl]-1-H-pyrazole-3-carbonitrile | 1.5 g | NC1=CC(=NN1C1=C(C=C(C=C1)C(F)(F)F)Cl)C#N | C11H6ClF3N4
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 5-amino-1-[2-chloro-4-(trifluoromethyl)phenyl]-4-thiocyanato-1H-pyrazole-3-carbonitrile | 1.64 g | NC1=C(C(=NN1C1=C(C=C(C=C1)C(F)(F)F)Cl)C#N)SC#N | C12H5ClF3N5S
